US07807708B2
8 g of ethyl 3″-tert-butyl-4″-diethylamino-4′-vinyl[1,1′;3′,1″]terphenyl-4-carboxylate (17 mmol) are dissolved in 400 mL of THF with stirring and, under cold conditions (ice bath), 6.2 g of 9 borabicyclo[3.3.1]nonane (51 mmol) are added and the ice bath is removed to raise the temperature of the reaction medium to room temperature, at which point the reaction medium is stirred for 1 hour 30 minutes. The temperature of the reaction medium is again reduced to 0° C., 52.8 mL of NaOH (53 mmol) are added portionwise, and the medium is stirred for 10 minutes at 0° C.; 37.3 mL of H2O2 (426 mmol) are then added dropwise and the reaction medium is warmed to room temperature and then stirred for 2 hours 30 minutes. The reaction is stopped by adding 500 mL of ice-water and then extracted with 500 mL of ethyl acetate. The organic phases are washed with 1 L of water and then dried over magnesium sulfate. The solvents are evaporated off and the residue is then purified by chromatography on silica gel (eluent: 7/3 heptane/ethyl acetate). 6.4 g of ethyl 3″-tert-butyl-4″-diethylamino-4′-(3-hydroxypropyl)-[1,1′;3′,1″]terphenyl-4-carboxylate are obtained (yield=75%).

reactant | ethyl 3″-tert-butyl-4″-diethylamino-4′-vinyl[1,1′;3′,1″]terphenyl-4-carboxylate | 17 mmol, 8 g | C(C)(C)(C)C=1C=C(C=CC1N(CC)CC)C=1C=C(C=CC1C=C)C1=CC=C(C=C1)C(=O)OCC | C31H37NO2
reactant | borabicyclo[3.3.1]nonane | 51 mmol | B12CCCC(CCC1)C2 | C8H15B
reactant | NaOH | 53 mmol, 52.8 mL | [OH-].[Na+]
reactant | H2O2 | 426 mmol, 37.3 mL | OO | H2O2
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | ethyl 3″-tert-butyl-4″-diethylamino-4′-(3-hydroxypropyl)-[1,1′;3′,1″]terphenyl-4-carboxylate | 6.4 g, yield=75% | C(C)(C)(C)C=1C=C(C=CC1N(CC)CC)C=1C=C(C=CC1CCCO)C1=CC=C(C=C1)C(=O)OCC | C32H41NO3
